US07807709B2
B. (3S*,4R*)-1-Benzyl-4-hydroxymethyl-pyrrolidine-3-carboxylic acid isopropyl-amide
A suspension of (3aR*,6aS*)-5-benzyl-hexahydro-furo[3,4-c]pyrrol-1-one (1.50 g, 6.90 mmol) and ZnCl2 (0.94 g, 6.90 mmol) in iPrNH2 (20 mL) is refluxed overnight under a nitrogen atmosphere. The crude material is filtered over a pad of Celite and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH/NH4OH 70:25:5) to give the title product. TLC, Rf (CH2Cl2/MeOH 95:5)=0.38. MS (LC-MS): 277.2 [M+H]+.

reactant | (3aR*,6aS*)-5-benzyl-hexahydro-furo[3,4-c]pyrrol-1-one | 6.90 mmol, 1.50 g | C(C1=CC=CC=C1)N1C[C@@H]2[C@H](C1)COC2=O | C13H15NO2
reactant | iPrNH2 | 20 mL | C(C)(C)N | C3H9N
catalyst | ZnCl2 | 6.90 mmol, 0.94 g | [Cl-].[Cl-].[Zn+2]
product | (3S*,4R*)-1-Benzyl-4-hydroxymethyl-pyrrolidine-3-carboxylic acid isopropyl-amide | C(C)(C)NC(=O)[C@@H]1CN(C[C@@H]1CO)CC1=CC=CC=C1 | C16H24N2O2
